US07763657B2
Step 1: 3-[4-tert-Butyl-2-(4-methylpiperazine-1-yl)phenyl]acrylic acid ethyl ester
Palladium acetate (2.8 mg, 0.013 mmol, 6% mol eq), rac-2,2′-bis(diphenylphosphino)1,1′-binaphthyl (16.2 mg, 0.026 mmol, 12% mol eq), and cesium carbonate (102.6 mg, 0.315 mmol, 1.5 eq) were added in anhydrous toluene under argon atmosphere. After stirring for 5 min, 3-(4-tert-butyl-2-trifluoromethanesulfonyloxyphenyl)acrylic acid ethyl ester (74.0 mg, 0.210 mmol, 1 eq) and N-Methylpiperazine (34.9 μl, 0.315 mmole, 1.5 eq) were added. The mixture was stirred for 24 hr at 80° C. The reaction mixture was purified according to step 1 of Example 22 to give yellow liquid (50.8 mg, 73.2%).

reactant | rac-2,2′-bis(diphenylphosphino)1,1′-binaphthyl | 0.026 mmol, 16.2 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.315 mmol, 102.6 mg, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4-tert-butyl-2-trifluoromethanesulfonyloxyphenyl)acrylic acid ethyl ester | 0.210 mmol, 74.0 mg, 1 eq | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)OS(=O)(=O)C(F)(F)F)=O | C16H19F3O5S
reactant | N-Methylpiperazine | 0.315 mmole, 34.9 μl, 1.5 eq | CN1CCNCC1 | C5H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 0.013 mmol, 2.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-tert-Butyl-2-(4-methylpiperazine-1-yl)phenyl]acrylic acid ethyl ester | 50.8 mg, 73.2% | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)N1CCN(CC1)C)=O | C20H30N2O2
